US20010049379A1
6-[4-(2-Amino-cyclohexyloxy)-5,6,7,8-tetrahydro-naphthalen-1-yl]-pyridin-2-ylamine
Prepared as in Example 48, via the following four-step sequence: 2-(2,5-dimethylpyrrolyl)-6-[4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl]-pyridine was first alkylated with 2-chlorocyclohexanone, using potassium carbonate as the base and a catalytic amount of sodium iodide, in dimethylformamide at 80° C. for 24 hours, in 92% yield. The resulting ketone was converted to the oxime methyl ether using O-methylhydroxylamine hydrochloride and triethylamine in methanol at reflux for 16 h in 81% yield. The oxime ether was then reduced to the amine using borane methyl sulfide in tetrahydrofuran at reflux for 2 days, followed by refluxing in ethanol with sodium carbonate and cesium fluoride for 16 hours, in 12% yield. The amine was then deblocked with hydroxylamine hydrochloride in refluxing aqueous ethanol to afford the desired final product in 89% yield as a tan solid after conversion to the hydrochloride salt.

reactant | 2-(2,5-dimethylpyrrolyl)-6-[4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl]-pyridine | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=2CCCCC12)O)C | C21H22N2O
reactant | 2-chlorocyclohexanone | ClC1C(CCCC1)=O | C6H9ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
reactant | O-methylhydroxylamine hydrochloride | Cl.CON
reactant | oxime ether | C=NO | CH3NO
reactant | borane methyl sulfide | CSC.B
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | cesium fluoride | [F-].[Cs+]
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-[4-(2-Amino-cyclohexyloxy)-5,6,7,8-tetrahydro-naphthalen-1-yl]-pyridin-2-ylamine | 89% yield | NC1C(CCCC1)OC1=CC=C(C=2CCCCC12)C1=CC=CC(=N1)N | C21H27N3O
